US07858621B2
N-Methoxy-2-(3-methoxy-propyl)-N-methyl-6-trifluoromethyl-nicotinamide (156 mg, 0.509 mmol) was reacted with 1M-LAH in THF solution to give 2-(3-methoxy-propyl)-6-trifluoromethyl-pyridine-3-carbaldehyde quantitatively as oil. The crude product was used directly in the following reaction. 2-(3-Methoxy-propyl)-6-trifluoromethyl-pyridine-3-carbaldehyde was reacted with methyl(triphenylphosphoranylidene)acetate (204 mg, 0.61 mmol) to give 3-[2-(3-methoxy-propyl)-6-trifluoromethyl-pyridin-3-yl]-acrylic acid methyl ester (124 mg, 80%).

reactant | 2-(3-Methoxy-propyl)-6-trifluoromethyl-pyridine-3-carbaldehyde | COCCCC1=NC(=CC=C1C=O)C(F)(F)F | C11H12F3NO2
reactant | methyl(triphenylphosphoranylidene)acetate | 0.61 mmol, 204 mg | COC(C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C21H19O2P
product | 3-[2-(3-methoxy-propyl)-6-trifluoromethyl-pyridin-3-yl]-acrylic acid methyl ester | 124 mg, 80% | COC(C=CC=1C(=NC(=CC1)C(F)(F)F)CCCOC)=O | C14H16F3NO3
